US05719157
A mixture of sodium iodide (1.68 g) and methyl ethyl ketone (15 ml) was stirred at 80° C. for 1 hour, and then ethyl 2-chloromethyl-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinoline-3-carboxylate (2.0 g) was added thereto, and the resulting mixture was stirred at the same temperature for 12 hours. The insoluble solid was filtered off, and the filtrate was concentrated under reduced pressure. The residue was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over magnesium sulfate, and the solvent was evaporated. The residual oil was subjected to column chromatography on silica gel. The fractions eluted with chloroform/ethyl acetate (1/1,v/v) gave ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-iodomethylquinoline-3-carboxylate (1.4 g, 58%) which was then recrystallized from ethyl acetate-hexane.

reactant | sodium iodide | 1.68 g | [I-].[Na+]
reactant | ethyl 2-chloromethyl-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinoline-3-carboxylate | 2.0 g | ClCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C23H24ClNO6
solvent | methyl ethyl ketone | 15 ml | C(C)C(=O)C | C4H8O
product | ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-iodomethylquinoline-3-carboxylate | 1.4 g, 58% | COC=1C=C2C(=C(C(=NC2=CC1OC)CI)C(=O)OCC)C1=CC(=C(C=C1)OC)OC | C23H24INO6
